US09023847B2
59. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(1H-indol-5-ylmethyl)-amino]-ethyl}-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide using indole-5-carboxaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 431 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.49 (1H, br. s.) 10.93 (1H, br. s.) 10.27 (1H, s) 7.96-8.06 (1H, m) 7.75 (1H, d, J=5.47 Hz) 7.41-7.51 (1H, m) 7.22-7.31 (1H, m) 7.02 (1H, dd, J=8.30, 1.46 Hz) 6.78 (1H, d, J=5.47 Hz) 6.41 (1H, dd, J=3.51, 1.76 Hz) 6.30 (1H, dd, J=2.54, 1.56 Hz) 3.73 (2H, s) 3.33 (2H, d, J=5.86 Hz) 2.64 (2H, t, J=6.25 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | indole-5-carboxaldehyde | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(1H-indol-5-ylmethyl)-amino]-ethyl}-amide | N1C=CC2=CC(=CC=C12)CNCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C23H22N6OS
